US07285563B2
N-(3-Methylcinnolin-5-yl)-N′-[4-(trifluoromethoxy)benzyl]urea
Prepared from 3-methylcinnolin-5-amine and [4-(trifluoromethoxy)benzyl]isocyanate (Description 59) according to the procedure of Description 61. m/z (ES+) 377 (M+H)+.

reactant | 3-methylcinnolin-5-amine | CC=1N=NC=2C=CC=C(C2C1)N | C9H9N3
reactant | [4-(trifluoromethoxy)benzyl]isocyanate | FC(OC1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO2
product | N-(3-Methylcinnolin-5-yl)-N′-[4-(trifluoromethoxy)benzyl]urea | CC=1N=NC2=CC=CC(=C2C1)NC(=O)NCC1=CC=C(C=C1)OC(F)(F)F | C18H15F3N4O2
